US07943609B2
(11S)-11-Isopropyl-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
(11S)-11-Isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (320 mg, 1.13 mmol) was dissolved in 3 mL of trifluoroacetic acid and the solution was placed in a pressure bottle. Platinum oxide (250 mg) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 20 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with a mixture of iso-propanol and CH2Cl2 and the combined filtrates were concentrated under reduced pressure to give a syrup. The syrup was partitioned between H2O and CHCl3. The aqueous portion was made basic by addition of 10% NaOH solution until pH >12. The layers were separated and the organic portion was washed successively with 10% NaOH (2×), H2O and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure to give a tan foam. Crystallization from ethyl acetate gave the title compound (215 mg) as light amber crystals, mp 158.0-160.0° C.

reactant | (11S)-11-Isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.13 mmol, 320 mg | C(C)(C)[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C16H18N4O
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum oxide | 250 mg | [Pt]=O
product | (11S)-11-Isopropyl-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 215 mg | C(C)(C)[C@H]1COCC=2N1C1=C(C(=NC=3CCCCC13)N)N2 | C16H22N4O
